US06596719B1
According to the procedure described in Example 4a) 100 mg 5isopropyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide was reacted with thiophene-2-sulfonylchloride to give 85 mg 5-isopropyl-N-[6-(2-(2-thiophenesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(2-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide. LC-MS: tR=4.78 min, [M+1]+=683.61, [M−1]−=681.70.

reactant | 5isopropyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 100 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1=CC=NC=C1 | C26H28N6O5S
reactant | thiophene-2-sulfonylchloride | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
product | 5-isopropyl-N-[6-(2-(2-thiophenesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(2-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 85 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)C=1SC=CC1)C1=NC=CC=C1 | C30H30N6O7S3
